US04900752
7,8-dihydro-6,6-dimethyl-7-hydroxy-8-propionylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole
To a mixture of 200 mg (0.85 m mol) of 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole, 130 ml (0.935 m mol) of triethylamine and 20 ml of methylene chloride were added 81 μl (0.935 m mol) of propionyl chloride with stirring at the room temperature, followed by further stirring for 6 hours. After the completion of the reaction, the mixture solution was washed thrice with water and dried over anhydrous magnesium sulfate. After the solvent was distilled off, the residue was recrystallized from ethanol to obtain 77 mg (yield: 31%) of the pure intended compound.

reactant | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-amino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 200 mg | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)N)O)C | C11H13N3O3
reactant | triethylamine | 130 ml | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 81 μl | C(CC)(=O)Cl | C3H5ClO
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 7,8-dihydro-6,6-dimethyl-7-hydroxy-8-propionylamino-6H-pyrano [2,3-f] benzo-2,1,3-oxadiazole | 77 mg, yield: 31% | CC1(C(C(C=2C(=CC=3C(=NON3)C2)O1)NC(CC)=O)O)C | C14H17N3O4
